US07244861B2
596 mg of 3-fluoro-2-hydroxybenzaldehyde was dissolved in 5 ml of acetonitrile, and 770 mg of N-bromosuccinimide was added. The solution was stirred for 15 minutes at room temperature. The reaction mixture was diluted with ethyl acetate, and washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent was evaporated, to give 928 mg of 5-bromo-3-fluoro-2-hydroxybenzaldehyde.

reactant | 3-fluoro-2-hydroxybenzaldehyde | 596 mg | FC=1C(=C(C=O)C=CC1)O | C7H5FO2
reactant | N-bromosuccinimide | 770 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-3-fluoro-2-hydroxybenzaldehyde | 928 mg | BrC=1C=C(C(=C(C=O)C1)O)F | C7H4BrFO2
